US07202364B2
N-(2-chloro-5-methyl-6-fluorophenyl)-carbamic acid methyl ester (39 g, 0.18 mmol) is dissolved in MeOH (150 mL), water (150 mL) and 30% NaOH solution (150 mL). The reaction mixture is heated to reflux temperature for 3 days and then cooled to room temperature. The reaction is concentrated by rotary evaporator to remove most of the methanol and then partitioned between Et2O (500 mL) and water (500 mL). The aqueous phase is extracted again with Et2O (250 mL) and the combined organic layers washed with brine (500 mL), dried and concentrated by rotary evaporator. The crude product is purified by bulb-to-bulb distillation to give 2-chloro-5-methyl-6-fluoroaniline as a colorless oil (b.p. 120–131° C. at ˜20 mm of Hg), which forms a white crystalline solid upon storage at 4° C.

reactant | N-(2-chloro-5-methyl-6-fluorophenyl)-carbamic acid methyl ester | 0.18 mmol, 39 g | COC(NC1=C(C=CC(=C1F)C)Cl)=O | C9H9ClFNO2
reactant | water | 150 mL | O | H2O
reactant | NaOH | 150 mL | [OH-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 2-chloro-5-methyl-6-fluoroaniline | ClC1=C(N)C(=C(C=C1)C)F | C7H7ClFN
